US03988355
p-(p-Acetamidobenzamide phenol
A solution of p-acetamidobenzoic acid (12.5 g.) in 250 ml. of tetrahydrofuran is treated with triethylamine (11.1 ml.). The mixture is then treated with isobutylchloroformate (10.4 ml.) and, after 5 min. at about 25° C., with p-aminophenol (13.3 g.) in 80 ml. of dry pyridine. After 40 min. the crude product is obtained by addition of 2 liters of water. The product is recrystallized from 500 ml. of hot methanol by dilution with 300 ml. of water as white crystals, 5.9 g., m.p. 275.0°-277.0° C.

reactant | p-acetamidobenzoic acid | 12.5 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | isobutylchloroformate | 10.4 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | p-aminophenol | 13.3 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | water | 2 liters | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 11.1 ml | C(C)N(CC)CC | C6H15N
product | p-Acetamidobenzamide phenol | C1(=CC=CC=C1)O.C(C)(=O)NC1=CC=C(C(=O)N)C=C1 | InChI=1S/C9H10N2O2.C6H6O/c1-6(12)11-8-4-2-7(3-5-8)9(10)13;7-6-4-2-1-3-5-6/h2-5H,1H3,(H2,10,13)(H,11,12);1-5,7H
